* Test 10: Mixed signal path (R/L/C + D + Q + M)
* Full device coverage; ngspice-compatible netlist

.model DMOD D ( Is=1e-14 N=1 )
.model NPN NPN ( Is=1e-16 Bf=100 Br=1 Vaf=100 )
.model PNP PNP ( Is=1e-16 Bf=50 Br=2 Vaf=80 )
.model NMOS NMOS ( Vto=0.7 Kp=20u Lambda=0.02 )
.model PMOS PMOS ( Vto=-0.7 Kp=10u Lambda=0.02 )

VCC vcc 0 5
VEE vee 0 -5

* Bias divider and BJT input
R1 vcc bias 12k
R2 bias 0 12k
RE emit 0 330
RC vcc coll 2.2k
Q1 coll bias emit NPN

* PNP + diode network around collector
Q2 coll bias vcc sub PNP
D1 vcc coll DMOD
D2 coll 0 DMOD
Rvee vee 0 10k
Rsub sub vcc 10Meg

* CMOS output stage
M1 out bias 0 0 NMOS
M2 out bias vcc vcc PMOS
RDR vcc out 4.7k
RLOAD out 0 10k

* Storage elements
C1 coll 0 1n
L1 out 0 4.7u

.OP
.PRINT
